US07812028B2
Preparation of 6-Cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(1-hydroxymethyl-cyclopentyl)-nicotinamide
The title compound was synthesized in analogy to Example 31, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, hydroxymethylcyclopropanol, (4-fluoro-phenyl)-boronic acid and 1-amino-cyclopentanemethanol as starting materials to yield 6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(1-hydroxymethyl-cyclopentyl)-nicotinamide as a colorless foam, MS (ISP) 385.1 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | hydroxymethylcyclopropanol | OCC1(CC1)O | C4H8O2
reactant | (4-fluoro-phenyl)-boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 1-amino-cyclopentanemethanol | NC1(CCCC1)CO | C6H13NO
product | 6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(1-hydroxymethyl-cyclopentyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)NC2(CCCC2)CO)C=C1C1=CC=C(C=C1)F | C22H25FN2O3
